US06894061B2
8-Chloro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
A stirred solution of 8-chloro-6-methylphenanthridine (1.6 g, 7.03 mmol) in tetrahydrofuran (67 mL) was treated with sodium borohydride (2.13 g, 56.2 mmol) and trifluoroacetic acid (1.08 mL, 3.51 mmol) and heated at reflux for 5.5 hours. After cooling to room temperature, the reaction was quenched with a mixture of a saturated, aqueous, sodium bicarbonate solution and a saturated, aqueous, sodium chloride solution. The aqueous phase was extracted with diethyl ether (3×). The combined organic phase was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to a crude dihydrophenanthridine. A solution of the dihydrophenanthridine in dichloromethane (19 mL) was treated with triethylamine (3.9 mL, 28.1 mmol) and 4-methoxybenzenesulfonyl chloride (1.60 g, 7.73 mmol). After stirring for 18 hours under argon at room temperature, the reaction mixture was quenched with a 1 N aqueous sodium hydroxide solution, and extracted with dichloromethane (2×). The combined organic phase was washed with a 2 N hydrochloric acid solution, dried over anhydrous magnesium sulfate, and evaporated in vacuo to an orange solid. The orange solid was purified by flash column chromatography on silica gel, eluting with a mixture of ethyl acetate-hexane (1:8) to yield the title compound (1.65 g, 4.11 mmol, 59%) as a white solid;

reactant | 8-chloro-6-methylphenanthridine | 7.03 mmol, 1.6 g | ClC1=CC2=C(N=C3C=CC=CC3=C2C=C1)C | C14H10ClN
reactant | sodium borohydride | 56.2 mmol, 2.13 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | 3.51 mmol, 1.08 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dihydrophenanthridine | C=1C=CC2=C(C1)CNC3=C2C=CC=C3 | C13H11N
reactant | triethylamine | 28.1 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 7.73 mmol, 1.60 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | tetrahydrofuran | 67 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
product | 8-Chloro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 4.11 mmol, 1.65 g, 59% | ClC=1C=C2C(N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C21H18ClNO3S
